US05409943
(a) 2-Amino-3-(2-fluoro-4-methoxybenzyloxy)pyridine
A mixture of 2-amino-3-hydroxy pyridine (1.45g, 0.013 mol), dichloromethane (10 ml) and 40% aqueous sodium hydroxide solution (10 ml) was stirred for five minutes, then 2-fluoro-4-methoxybenzyl bromide (2.9 g, 0.013 mol) and Adogen 464 (1.5 ml) were added and stirring continued for 16 hours. The mixture was diluted with water and extracted with dichloromethane. Drying and evaporation of the organic extracts, and trituration with ether gave the desired product. Yield 1.11 g (34%), m.p. 135°-138 ° C.

reactant | 2-amino-3-hydroxy pyridine | 0.013 mol, 1.45g | NC1=NC=CC=C1O | C5H6N2O
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | 2-fluoro-4-methoxybenzyl bromide | 0.013 mol, 2.9 g | FC1=C(CBr)C=CC(=C1)OC | C8H8BrFO
catalyst | Adogen 464 | 1.5 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
product | 2-Amino-3-(2-fluoro-4-methoxybenzyloxy)pyridine | NC1=NC=CC=C1OCC1=C(C=C(C=C1)OC)F | C13H13FN2O2
